US08703742B2
tert-Butyl-4-(1-hydroxy-3-(nitromethyl)-1,3-dihydrobenzo[c][1,2]oxa-borol-7-yloxy)butylcarbamate
To a solution of tert-butyl 4-(3-formyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenoxy)-butylcarbamate (3.5 g, 8.3 mmol) and CTAB (cat.) in THF (50 mL) was added MeNO2(2.8 mL, 49 mmol), followed by an aqueous solution of NaOH (0.36 g, 9.1 mmol) in H2O (5 mL). The mixture was stirred at room temperature for 45 min. The cyclization was afforded by adding 2N HCl solution until pH=2 at 0° C. The reaction mixture was extracted with EtOAc (3×50 mL) and the organic layers were dried over anhydrous Na2SO4, and then concentrated in vacuo. The residue was purified by chromatography on silica gel (PE: EtOAc=3:1) to give the product as yellow oil (1.7 g, yield 53.6%). 1H NMR (400 MHz, DMSO-d6) δ 9.05 (s, 1H), 7.44-7.47 (t, 1H), 7.06-7.08 (d, 1H), 6.88-6.90 (d, 1H), 9.86 (t, 1H), 5.70-5.72 (m, 1H), 5.29-5.33 (m, 1H), 4.53-4.59 (m, 1H), 4.02-4.06 (t, 2H), 2.95-2.30 (m, 2H), 1.67-1.72 (m, 2H), 1.52-1.57 (m, 2H), 1.38 (s, 9H).

reactant | tert-butyl 4-(3-formyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenoxy)-butylcarbamate | 8.3 mmol, 3.5 g | C(=O)C=1C(=C(OCCCCNC(OC(C)(C)C)=O)C=CC1)B1OC(C(O1)(C)C)(C)C | C22H34BNO6
reactant | MeNO2 | 49 mmol, 2.8 mL | C[N+](=O)[O-] | CH3NO2
reactant | NaOH | 9.1 mmol, 0.36 g | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
catalyst | CTAB | CCCCCCCCCCCCCCCC[N+](C)(C)C.[Br-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 5 mL | O | H2O
product | tert-Butyl-4-(1-hydroxy-3-(nitromethyl)-1,3-dihydrobenzo[c][1,2]oxa-borol-7-yloxy)butylcarbamate | 1.7 g, yield 53.6% | C(C)(C)(C)OC(NCCCCOC1=CC=CC2=C1B(OC2C[N+](=O)[O-])O)=O | C17H25BN2O7
